US04168315
A solution of 4,5-bis(p-methoxyphenyl)-α,α-dimethyl-2-thiazoleacetic acid, methyl ester (0.70 g.; 0.0018 mole), 6 N sodium hydroxide (1.6 ml.) and methanol (15 ml.) was stirred at ambient temperature for 16 hours. Methanol was removed by rotary evaporation; the residue was slurried in water (30 ml.) and then adjusted to pH 2 with conc. hydrochloric acid. Decarboxylation occurred while the mixture stirred at ambient temperature for 1.75 hours. The mixture was extracted with methylene chloride. The extracts were dried (sodium sulfate) and concentrated by rotary evaporation to afford 0.59 g. of oily product. The material crystallized slowly at -10° over a period of several days. Recrystallization from pentane afforded 0.19 g. (32% yield) of 2-isopropyl-4,5-bis(p-methoxyphenyl)thiazole; m.p. 61°-65° C.

reactant | 4,5-bis(p-methoxyphenyl)-α,α-dimethyl-2-thiazoleacetic acid, methyl ester | 0.0018 mole, 0.70 g | COC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)OC)C(C(=O)OC)(C)C | C22H23NO4S
reactant | sodium hydroxide | 6 N, 1.6 ml | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 2-isopropyl-4,5-bis(p-methoxyphenyl)thiazole | 32% yield | C(C)(C)C=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C20H21NO2S
